US05032598
A mixture of 0.46 g (0.00183 mol) of 2-(4-piperidyl)-1-indanone hydrochloride, 0.578 g (0.00251 mol) of p-nitrophenethyl bromide, 0.422 g (0.00502 mol) sodium bicarbonate and 20 mL of ethanol was stirred and refluxed for 72 hours. The ethanol was removed by evaporation, and the residue was partitioned between ethyl acetate and water. The ethyl acetate phase was washed with water, dried over magnesium sulfate, filtered, and the ethyl acetate removed. The residue was purified by chromatography on silica gel using 2.5% methanol in chloroform as an eluant. Evaporation of the solvent gave a crystalline product that was converted to a hydrochloride salt. Recrystallization from ethanol gave 2-[1-(4-nitrophenethyl)-4-piperidyl]-1-indanone hydrochloride, mp 259°-261° C.

reactant | 2-(4-piperidyl)-1-indanone hydrochloride | 0.00183 mol, 0.46 g | Cl.N1CCC(CC1)C1C(C2=CC=CC=C2C1)=O
reactant | p-nitrophenethyl bromide | 0.00251 mol, 0.578 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | sodium bicarbonate | 0.00502 mol, 0.422 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-[1-(4-nitrophenethyl)-4-piperidyl]-1-indanone hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(CCN2CCC(CC2)C2C(C3=CC=CC=C3C2)=O)C=C1 | InChI=1S/C22H24N2O3.ClH/c25-22-20-4-2-1-3-18(20)15-21(22)17-10-13-23(14-11-17)12-9-16-5-7-19(8-6-16)24(26)27;/h1-8,17,21H,9-15H2;1H
